US07728144B2
Biphenyl-2-ylcarbamic Acid 1-[2-(3-formylbenzylcarbamoyl)ethyl]piperidin-4-yl Ester
To a flask was added biphenyl-2-ylcarbamic acid 1-[2-(3-hydroxymethylbenzyl carbamoyl)ethyl]piperidin-4-yl ester (0.33 g, 0.68 mmol; prepared as described in Preparation 12), DCM (5 mL), DIPEA (0.47 mL, 2.7 mol) and DMSO (0.2 mL, 2.7 mol). Using an ice bath, the mixture was cooled to about −10° C. and sulfur trioxide pyridine-complex (0.32 g, 2.0 mol) was added. The reaction was stirred at −10° C. for 0.75 hour. Before removing the ice-bath, the reaction was quenched by adding water (5 mL). The aqueous layer was separated and the organic layer was washed with water (2×5 mL), 1.0N NaHSO4(aq) (2×5 mL), 1.0N NaHCO3(aq) (1×5 mL) and brine (0.5 L) and then dried over MgSO4 and filtered to provide the title compound which was used without further purification.

reactant | biphenyl-2-ylcarbamic acid 1-[2-(3-hydroxymethylbenzyl carbamoyl)ethyl]piperidin-4-yl ester | 0.68 mmol, 0.33 g | OCC=1C=C(CNC(=O)CCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C29H33N3O4
reactant | DIPEA | 2.7 mol, 0.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 2.7 mol, 0.2 mL | CS(=O)C | C2H6OS
reactant | sulfur trioxide pyridine | 2.0 mol, 0.32 g | N1=CC=CC=C1.S(=O)(=O)=O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-[2-(3-formylbenzylcarbamoyl)ethyl]piperidin-4-yl Ester | C(=O)C=1C=C(CNC(=O)CCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C29H31N3O4
